US07294627B2
Hydrogen chloride gas is passed through a methanol (500 mL) solution of 1-t-butoxycarbonyl-4-{[(methyl)(pyridin-4-yl)amino]methyl}piperidine maintaining <20° C., for 5 minutes. The mixture is kept at this temperature for 7 hours, then at 4° C. for 16 hours before it is concentrated in vacuo providing 4-{[(methyl)(pyridin-4-yl)amino]methyl}piperidine hydrochloride (4.85 g, >100%).

reactant | Hydrogen chloride | Cl | ClH
reactant | 1-t-butoxycarbonyl-4-{[(methyl)(pyridin-4-yl)amino]methyl}piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)CN(C1=CC=NC=C1)C | C17H27N3O2
solvent | methanol | 500 mL | CO | CH4O
product | 4-{[(methyl)(pyridin-4-yl)amino]methyl}piperidine hydrochloride | 4.85 g, >100% | Cl.CN(C1=CC=NC=C1)CC1CCNCC1 | InChI=1S/C12H19N3.ClH/c1-15(12-4-8-14-9-5-12)10-11-2-6-13-7-3-11;/h4-5,8-9,11,13H,2-3,6-7,10H2,1H3;1H
